US09302989B2
N-benzyl-3-morpholino-N-(4-nitrophenethyl)propan-1-amine
A suspension of 1-(2-bromoethyl)-4-nitrobenzene (0.314 g, 1.366 mmol), N-benzyl-3-morpholinopropan-1-amine (0.128 g, 0.546 mmol), and potassium carbonate (0.189 g, 1.366 mmol) in dimethylformamide (1.821 ml) was heated at 65° C. for 20 hours. The reaction was partitioned in ethyl acetate and water. The organic layer was washed with brine, dried over anhydrous sodium sulfate, filtered, and concentrated. The concentrate was purified by flash chromatography to provide the title compound.

reactant | 1-(2-bromoethyl)-4-nitrobenzene | 1.366 mmol, 0.314 g | BrCCC1=CC=C(C=C1)[N+](=O)[O-] | C8H8BrNO2
reactant | N-benzyl-3-morpholinopropan-1-amine | 0.546 mmol, 0.128 g | C(C1=CC=CC=C1)NCCCN1CCOCC1 | C14H22N2O
reactant | potassium carbonate | 1.366 mmol, 0.189 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 1.821 ml | CN(C=O)C | C3H7NO
product | N-benzyl-3-morpholino-N-(4-nitrophenethyl)propan-1-amine | C(C1=CC=CC=C1)N(CCCN1CCOCC1)CCC1=CC=C(C=C1)[N+](=O)[O-] | C22H29N3O3
